US06482829B2
(rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-4-phenyl-2-(2-pyrrolidin-1-yl-ethyl)-2,8-diaza-spiro[4.5]decane-1,3-dione
The title compound, MS: m/e=582.2 (M+H+), was prepared in accordance with the general method of example 121 from (rac)-8-(3,5-bis-trifluoromethyl-benzoyl)-4-phenyl-2,8-diaza-spiro[4.5]decane-1,3-dione and 1-(2-hydroxyethyl)-pyrrolidine.

reactant | (rac)-8-(3,5-bis-trifluoromethyl-benzoyl)-4-phenyl-2,8-diaza-spiro[4.5]decane-1,3-dione | FC(C=1C=C(C(=O)N2CCC3(C(C(NC3=O)=O)C3=CC=CC=C3)CC2)C=C(C1)C(F)(F)F)(F)F | C23H18F6N2O3
reactant | 1-(2-hydroxyethyl)-pyrrolidine | OCCN1CCCC1 | C6H13NO
product | (rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-4-phenyl-2-(2-pyrrolidin-1-yl-ethyl)-2,8-diaza-spiro[4.5]decane-1,3-dione | FC(C=1C=C(C(=O)N2CCC3(C(C(N(C3=O)CCN3CCCC3)=O)C3=CC=CC=C3)CC2)C=C(C1)C(F)(F)F)(F)F | C29H29F6N3O3
